US07629363B2
Step 1: Preparation of 4-hydroxy-1-[5-(hydroxymethyl)-2-methylphenyl]-6-methylpyridin-2(1H)-one
4-Hydroxy-6-methyl-2-pyrone (23.0 g, 182.2 mmol) and 3-Amino 4-methylbenzyl alcohol (25.0 g, 182.2 mmol) were taken up in 25 ml of 1,2-dichlorobenzene. The solution was heated to 165° C. in a 250 ml round bottom flask equipped with a J-Kem temperature controller probe, and a heating mantle. In a separate 250 ml round bottom flask 4-Hydroxy-6-methyl-2-pyrone (23.0 g, 182.2 mmol) was suspended in 25 ml of 1,2-dichlorobenzene and also heated to 165° C. The pyrone solution was poured into the flask containing the aniline and the reaction stirred at 165° C. for 20 minutes. The reaction was allowed to cool to room temperature. Reaction contents were washed with saturated NaHCO3 (aq.). Separated the organic and aqueous layers. Aqueous layer was made acidic with dropwise addition of concentrated HCl. The product was extracted from the acidic aqueous layer with n-BuOH. N-BuOH removed in vacuo to produce a reddish brown oil. (8.5 g, 19%). Contents carried forward to next reaction with no further purification. 1H NMR (300 MHz, CD3OD) δ 7.35 (m, 2H), 7.08 (s, 1H), 6.08 (br s, 1H), 5.81 (br s, 1H), 4.60 (s, 2H), 2.01 (s, 3H), 1.87 (s, 3H). LC/MS, tr=1.42 minutes (5 to 95% acetonitrile/water over 5 minutes at 1 ml/min with detection 254 nm, at 50° C.). ES-MS m/z 246.1131 (M+H). ES-HRMS m/z 246.1107 (M+H calcd for C14H16NO3 requires 246.1125).

reactant | 4-Hydroxy-6-methyl-2-pyrone | 182.2 mmol, 23.0 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | 3-Amino 4-methylbenzyl alcohol | 182.2 mmol, 25.0 g | NC=1C=C(CO)C=CC1C | C8H11NO
reactant | 4-Hydroxy-6-methyl-2-pyrone | 182.2 mmol, 23.0 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | pyrone | O1C(C=CC=C1)=O | C5H4O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | 1,2-dichlorobenzene | 25 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | 1,2-dichlorobenzene | 25 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | acetonitrile water | C(C)#N.O
product | 4-hydroxy-1-[5-(hydroxymethyl)-2-methylphenyl]-6-methylpyridin-2(1H)-one | OC1=CC(N(C(=C1)C)C1=C(C=CC(=C1)CO)C)=O | C14H15NO3
